Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Carbamazepine / methocarbamol / Cyclobenzaprine
 
Attending: ___
 
Chief Complaint:
difficulty walking
 
Major Surgical or Invasive Procedure:
___ Posterior fossa high volume CSF puncture

 
History of Present Illness:
The patient is a ___ year old ___ woman with a
history of a Chiari malformation and an unspecified connective
tissue disorder who has experienced progressive difficulty with
walking.

In retrospect, the patient thinks that her friends and also
bystanders have noticed a gradual change in the way she walks
over the past few months. In early ___, she went on a short
cruise and had a few people ask her if she was okay because of
the way she was walking. She did not particularly appreciate any
alteration in her gait at that time, but she did notice that she
had some difficulty with swimming during that trip. She 
developed
pain/synovitis in her knees which her Rheumatologist was
concerned might represent a flare, so she was started on a
prednisone taper. She has a history of chronic headaches and 
neck
pain treated with symptomatic pharmacotherapy such as tramadol
and naproxen, and these symptoms seemed to worsen during this
time. In late ___, she revisited Dr. ___ in the
General Neurology clinic who follows her tension headaches with
neck pain in the setting of her history of a Chiari malformation
which is status post suboccipital decompression in her twenties.
She reported "tightness" in the back of her neck and right
shoulder and arm. The pain was not accompanied by weakness or
sensory changes in that extremity. She also had left leg pain
that would coarse down the back of her leg when performing
Valsalva maneuvers, She was thought to have developed cervical
and lumbosacral radiculopathy and was prescribed baclofen as a
muscle relaxant and a soft cervical collar. However, the 
baclofen
did not work for her symptoms and was switched with robaxin; 
this
similarly did not work and was exchanged for diazepam. During
this time, she started to "unbalanced" and felt as though her
legs were not moving properly. She occasionally felt as though
her feet were slapping the ground, and again, coworkers or
friends would ask her if anything were wrong.  She started to
walk with her feet further apart. She felt as though her legs
were too light; she wanted to wear heavier shoes or weights on
her ankles. She was in communication by phone with Dr. ___ reorder an MRI scan to reevalute her Chiari malformation
which was unchanged from prior scans. She described sensations 
of
her own body moving oddly in space, felt like a bobble head 
doll,
no room spinning; she was prescribed meclizine to address this
symptom. She subsequently experienced two falls, one on ___
when she standing and eating an apple and suddenly fell toward
the left and a second on ___ when she fell fowards while
walking toward her stove. Both falls were without head injury,
loss of consciousness, or preceding symptoms. She presented to
her Rheumatologist the next ___ when she was reported as having
vertical nystagmus and neck/torso dystonic movements, and she 
was
then sent to the Emergency Department.
 
Past Medical History:
[] Neurologic - Chiari malformation s/p suboccipital
decompression ___ (Dr. ___, ___), ___ headaches
and neck pain
[] Rheumatologic - Unspecified connective tissue disorder ___
ab and RNP ab positive, dsDNA neg)
[] Gynecologic - s/p hysterectomy
 
Social History:
___
Family History:
Stroke (father, age ___.

 
Physical Exam:
Physical Examination:
General: Awake, NAD, lying in bed comfortably, tall.
Head: NC/AT, no conjunctival icterus, no oropharyngeal lesions
Neck: Supple, no nuchal rigidity
Cardiovascular: RRR, no M/R/G
Pulmonary: Equal air entry bilaterally, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema, palpable radial/dorsalis pedis
pulses
Skin: No rashes or lesions

Neurologic Examination:

- Mental Status - Awake, alert, oriented x 3. Recalls a coherent
history. Registration ___ and recall ___. Concentration
maintained when recalling months backwards. Follows two step
commands, midline and appendicular. Language fluent with intact
repetition and verbal comprehension. Normal prosody. No
paraphasic errors. High and low frequency naming intact. No
dysarthria. No apraxia or neglect.

- Cranial Nerves - [II] PERRL 3->2 brisk. VF full to number
counting. Funduscopy shows crisp disc margins, no papilledema. 
[III, IV, VI] EOMI, no nystagmus, normal saccades, no optic
ataxia. [V] ___ without deficits to light touch bilaterally. 
[VII] No facial asymmetry. [VIII] Hearing intact to finger rub
bilaterally. 
[IX, X] Palate elevation symmetric. [XI] SCM/Trapezius strength
___ bilaterally. [XII] Tongue midline.

- Motor - Normal bulk. Tone normal. No pronation, no drift. No
resting or postural tremor or asterixis. +Pseudoathetoic
movements of the hands (variable, sometimes right more than
left).
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[___]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5      5     5     5     5    5    5      5     5    5     5
R  5      5     5     5     5    5    5      5     5    5     5
ADM 4+/5 bilaterally. APB ___.

- Sensory - Light touch intact. Pinprick decreased ___ on LUE,
___ on RUE, ___ on back. Proprioception diminished at the
second finger PIPs bilaterally, fifth toes bilaterally.

- Reflexes
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 0      1      0      0        0
R 0      1      0      0        0
Plantar response up on right, down on left.

- Coordination - Truncal ataxia when sitting or standing. Some
overshoot with mirrored movements. Mild dysmetria on left 
greater
than right. Mild intention tremor bilaterally. RAM with change 
in
cadence.

- Gait - Present Romberg. Normal initiation. Wide base.
___ stride length, posturing/limited arm swing with
stress gaits. Bilateral sway. Few steps but unsteady turn.
 
Pertinent Results:
___ 11:11AM   ___ 
___
___ 11:11AM   ___ 
___
___ 11:11AM   PLT ___
___ 11:11AM   ___
___ 11:11AM   ___
___ 11:11AM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 06:00PM URINE  ___ 
___ 
___
___ 06:00PM URINE  ___ SP ___
___ 08:13PM CEREBROSPINAL FLUID (CSF)  ___ 
___
___ 08:13PM CEREBROSPINAL FLUID (CSF)  ___ 
___ 08:13PM CEREBROSPINAL FLUID (CSF)  ___ 
___

___ NC MRI BRAIN
FINDINGS: The patient is status post suboccipital decompression 
of a 
navicular Chiari malformation. The persistent CSF intensity 
fluid collection 
posterior and inferior to the cerebellum appears slightly 
decreased in size 
from prior exam. The cerebellar tonsils are located at the level 
of the 
foramen magnum. The imaged portions of the cervical spine and 
brain stem are 
unremarkable without evidence of syrinx formation. 
  
There is no shift of the normally midline structures or 
hydrocephalus. There 
is no evidence for intra- or ___ hemorrhage, edema, 
mass, or 
infarction. There are no abnormal areas of diffusion. flow voids 
are seen 
within the major intracranial arteries and dural venous sinuses. 
The ocular 
lenses and globes are normal. The imaged paranasal sinuses and 
mastoid air 
cells are well aerated. 
  
IMPRESSION: Stable ___ decompression of Chiari 
malformation 
with no evidence for infarction. 

___ CT Torso
IMPRESSION: 21 x 7 mm lucent lesion with chondroid matrix within 
the right 
iliac bone may represent a cartilaginous lesion versus an 
intraosseous lipoma. 
Recommend MRI for further evaluation. 

___ MRI C/T Spine
IMPRESSION:
 
1. Stable ___ changes from prior Chiari decompression 
with no
interval change in the suboccipital pseudomeningocele with 
stable mass effect
on the cerebellum.
 
2. Mild degenerative changes in the cervical spine, but no 
significant spinal
canal or neural foraminal narrowing.
 
3. Unremarkable MRI of the thoracic spine.

___ PANOREX
Small nonaggressive ovoid lucency in the left parasymphyseal 
mandible. This is
of uncertain etiology, but probably ___. Clinical 
correlation and,
if indicated, ___ radiographic imaging in ___ months to 
confirm
stability is requested.

MRI ___
IMPRESSION:
1. At ___, there is diffuse circumferential disc bulge with 
focal central
protrusion with mild inferior migration, contacting and mildly 
deforming
bilateral traversing S1 nerve roots as described above.
2. Prominent epidural fat deforming the thecal sac in lower 
lumbar and upper
sacral spinal canal suggestive of epidural lipomatosis.
2. A small right iliac bone lesion is incompletely evaluated on 
the present
study- may represent an atypical hemangioma. A dedicated MRI may 
be
considered for further evaluation if clinically indicated.

___ MRI CINE/Flow Study
BRAIN MRI:
 
Again posterior fossa decompression identified. The CSF space is 
identified
in the retrocerebellar region at the region of foramen magnum. 
The fluid
collection has not significantly changed compared to the prior 
study of
___ and ___.
 
There is no hydrocephalus, midline shift, or mass effect. No 
acute infarct is
seen. Vascular flow voids are maintained.
 
The ___ imaging study demonstrates bidirectional flow 
at the
foramen magnum, best visualized on series 12. The bidirectional 
flow anterior
to the spinal cord is uninterrupted. However, posterior and 
inferior to the
cerebellum, in the region of the fluid collection, bidirectional 
flow is
visualized inferior to the fluid collection which demonstrates a 
different
dynamics of the flow. Findings are indicative of likely 
adhesions at the
foramen magnum with the fluid collection being separate from the 
upper
cervical subarachnoid space. It appears that the fluid 
collection may have
communication with the foramen Magendie and the fourth ventricle 
but not with
the upper cervical posterior subarachnoid space.
 
IMPRESSION:
1. The fluid collection at the foramen magnum in the region of 
suboccipital
craniectomy is unchanged in size.
2. The ___ imaging shows the fluid collection to be 
not
communicating with the subarachnoid space in the upper cervical 
region. Fluid
collection may be communicating with the fourth ventricle but 
not with the
subarachnoid space.

___ positive 1:160 titer
RPR NR
B12 1456
TSH 0.86

CSF WBC 0, RBC 0, Prot 18, Glucose 65

___ negative
Anticardiolipin antibodies normal

PENDING:
___ Ab
___ Ab
Gq1b Ab
Lupus anticoagulant
 
Brief Hospital Course:
___ h/o Chiari malformation s/p suboccipital decompression, 
connective tissue disorder p/w one month of ataxia and gait 
instability with at least three months of discoordination/gait 
change suggestive of a foramen magnum syndrome. Her exam is most 
remarkable for truncal > appendicular ataxia and proprioceptive 
loss in all limbs. 

[] Ataxia - The examination was most suggestive of a foramen 
magnum syndrome with mechanical compression and 
___ processes being the most likely etiologies. 
She was evaluated with an MRI which did not reveal any major 
changes in the meningocele in the posterior fossa s/p prior 
suboccipital decompression. A Flex/Ext XR did not show major 
signs of subluxation. Neurosurgery was consulted and performed 
an MRI CSF CINE flow study and posterior fossa high volume tap 
without clear evidence of improvement in her examination. 

___ antibodies were drawn and sent out; most are 
still pending, but ___ was negative. A CT Torso was 
performed to evaluate for occult malignancy, but no major 
abnormalities were found. A small right iliac lucency was 
visualized which could represent a benign hemangioma; Radiology 
recommended followup/dedicated imaging. Similarly, a small left 
mandibular nonaggressive lesion was visualized on Panorex for 
which Radiology recommended dedicated imaging.

___ evaluated the patient and recommended acute rehab.

PENDING STUDIES:
Gq1b Ab
___ Ab
___ Ab
Lupus anticoagulant
___

TRANSITIONAL CARE ISSUES:
[] Neurology - Please f/u the ___ antibodies. Please 
continue to follow the patient's symptoms. 
[] PCP - ___ consider followup imaging for the left 
mandibular and right iliac crest bone lesions.
 
Medications on Admission:
Albuterol sulfate inhaler, Amitriptyline 10 qhs,
Hydroxychloroquine 400, Naproxen 500 q12h, Tramadol 100 q12h,
Prednisone 10

 
Discharge Medications:
1. tramadol 50 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
___.  
2. albuterol sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: Two (2) puffs Inhalation Q6H (every 6 hours) 
as needed for wheeze.  
3. amitriptyline 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. naproxen 250 mg Tablet Sig: Two (2) Tablet PO twice a ___ as 
needed for pain.  
5. prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. hydroxychloroquine 200 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. ___ % Ointment Sig: One (1) 
Appl Rectal DAILY (Daily) as needed for discomfort.  
8. heparin (porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a ___.  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Ataxia
Secondary Diagnosis: ___ malformation, ___ headache, 
L5 radiculopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Neurologic: No nystagmus, normal saccades, patchy decreased 
pinprick sensation, truncal ataxia > appendicular ataxia, 
intention tremor, wide based gait, present Romberg.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to your difficulty with walking. We 
suspected that this was related to either mechanical compression 
of the cerebellum due to scarring or pressure exerted by 
alteration of the cerebrospinal fluid or to an ___ 
process wherein antibodies might be produced which damage the 
cells of the cerebellum. The investigation into this process 
will continue when you leave the hospital and will be directed 
by Dr. ___ Neurologist.

At this time, we will not be changing your medications.

We would like you to followup with Dr. ___ your primary 
care physician as listed below.

If you experience any of the following warning signs, please 
seek medical attention.

It was a pleasure providing you with medical care during this 
hospitalization.
 
Followup Instructions:
___